US08686022B2
tert-butyl 4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-1-carboxylate
A mixture of 620 mg tert-butyl 4-methylene-piperidine-1-carboxylate and 6.3 ml of a 0.5 M solution of 9-borabicyclo[3.3.1]nonane in tetrahydrofuran is heated for one hour to 80° C. under argon. The solution thus prepared is added under argon to a mixture of 1.8 g 2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-yl trifluoro-methanesulphonate, 3.5 g potassium carbonate and 253 mg [1,1′-bis(diphenylphosphino)-ferrocen]dichloropalladium(II) complex with dichloromethane (1:1) in 12 ml N,N-dimethylformamide and 1.2 ml of water. The mixture is heated for 3 hours to 60° C., the solvents are eliminated in vacuo, taken up in ethyl acetate and the insoluble ingredients are filtered off. The filtrate is washed twice with water and once with saturated aqueous sodium chloride solution. After drying with magnesium sulphate the solvent is eliminated in vacuo and the residue is chromatographed on silica gel with cyclohexane/ethyl acetate 80:20 to 20:80.

reactant | tert-butyl 4-methylene-piperidine-1-carboxylate | 620 mg | C=C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO2
reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | 2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-yl trifluoro-methanesulphonate | 1.8 g | FC(S(=O)(=O)OC=1C=CC=C2C=C(N(C12)C)C(NC1=C(C(=CC(=C1)C(C)(C)C)NS(=O)(=O)C)OC)=O)(F)F | C23H26F3N3O7S2
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | water | 1.2 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 4-[2-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenylcarbamoyl)-1-methyl-1H-indol-7-ylmethyl]-piperidine-1-carboxylate | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CC1CCN(CC1)C(=O)OC(C)(C)C)C)OC)NS(=O)(=O)C | C33H46N4O6S
